US07601714B2
To {4-[(4-tert-butoxycarbonylamino-cyclohexylmethyl)-amino]-5-nitro-pyrimidin-2-ylamino}-acetic acid (120 mg, 0.28 mmol) in DMF (1.5 mL) were added pyrrolidine (48 μL, 0.57 mmol), TBTU (141 mg, 0.43 mmol), and diisopropylethylamine (99 μL, 0.57 mmol). The reaction mixture was stirred at room temperature for 16 h. The mixture was diluted with ethyl acetate and washed with water (×2) and brine. The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel prep TLC using 95:5 CH2Cl2:MeOH as an eluant to afford 19 mg of (4-{[5-nitro-2-(2-oxo-2-pyrrolidin-1-yl-ethylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester as a light brown solid.

reactant | {4-[(4-tert-butoxycarbonylamino-cyclohexylmethyl)-amino]-5-nitro-pyrimidin-2-ylamino}-acetic acid | 0.28 mmol, 120 mg | C(C)(C)(C)OC(=O)NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC(=O)O | C18H28N6O6
reactant | pyrrolidine | 0.57 mmol, 48 μL | N1CCCC1 | C4H9N
reactant | TBTU | 0.43 mmol, 141 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | 0.57 mmol, 99 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-{[5-nitro-2-(2-oxo-2-pyrrolidin-1-yl-ethylamino)-pyrimidin-4-ylamino]-methyl}-cyclohexyl)-carbamic acid tert-butyl ester | 19 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC(N1CCCC1)=O)=O | C22H35N7O5
